US08685970B2
To a solution of tert-butyl 6-(pyrrolidin-1-ylmethyl)pyridin-2-ylcarbamate (750 mg, 2.7 mmol) in dichloromethane (10 mL) was added TFA (4.0 mL) at room temperature. The resulting reaction mixture was stirred at room temperature for 6 h and then concentrated under reduced pressure. Enough saturated aqueous Na2CO3 was added to the resulting residue to adjust the pH=9. The mixture was then extracted with ethyl acetate (3×25 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to afford 6-(pyrrolidin-1-ylmethyl)pyridin-2-amine (440 mg, 92%).

reactant | tert-butyl 6-(pyrrolidin-1-ylmethyl)pyridin-2-ylcarbamate | 2.7 mmol, 750 mg | N1(CCCC1)CC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C15H23N3O2
reactant | TFA | 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-(pyrrolidin-1-ylmethyl)pyridin-2-amine | 440 mg, 92% | N1(CCCC1)CC1=CC=CC(=N1)N | C10H15N3
